US07820680B2
Step 2: 2-(4-fluorobenzyl)-4-(2-hydroxyethyl)-7-isopropyl-1,6,8-trioxo-1,3,4,6,7,8-hexahydro-2H-pyrazino[1,2-c]pyrimidine-9-yl pivalate
A mixture of 4-[2-(benzyloxy)ethyl]-2-(4-fluorobenzyl)-7-isopropyl-1,6,8-trioxo-1,3,4,6,7,8-hexahydro-2H-pyrazino[1,2-c]pyrimidin-9-yl pivalate (918 mg, 1.62 mmol) and 10% Pd(C) (92 mg) in ethyl acetate (32 mL) was stirred under a balloon atmosphere of hydrogen for 24 h. The reaction mixture was filtered through Celite, fresh catalyst was added and the mixture subjected to balloon hydrogenation for an additional 24 h. Analysis by LCMS showed slow conversion to the alcohol, so the mixture was again filtered through Celite and the filtrate was concentrated. The residual solid was taken up in ethanol (32 mL) with a small amount of ethyl acetate added to aid dissolution of the material. 10% Pd(C) was added and the mixture subjected to balloon hydrogenation for 96 h, with fresh catalyst being added after the first 24 h. The reaction still appeared to be progressing slowly, so the mixture was filtered through Celite and Pearlman's catalyst was added to the filtrate. Hydrogenation (balloon) was complete after 48 h (fresh Pearlman's catalyst was added after the first 24 h). Filtration through Celite and concentration afforded the title compound as a foamy white solid. 1H NMR (CDCl3, 400 MHz): δ 7.28-7.26 (m, 2 H), 7.07-7.02 (m, 2 H), 5.21-5.14 (m, 1 H), 4.87-4.74 (m, 2 H), 4.48-4.36 (m, 1 H), 3.89-3.77 (m, 1 H), 3.49-3.25 (m, 3 H), 1.68-1.54 (m, 2H), 1.46 (d, J=6.8 MHz, 6 H), 1.40 (s, 9 H). ES MS (M+1): 476.5.

reactant | 4-[2-(benzyloxy)ethyl]-2-(4-fluorobenzyl)-7-isopropyl-1,6,8-trioxo-1,3,4,6,7,8-hexahydro-2H-pyrazino[1,2-c]pyrimidin-9-yl pivalate | 1.62 mmol, 918 mg | C(C(C)(C)C)(=O)OC1=C2N(C(N(C1=O)C(C)C)=O)C(CN(C2=O)CC2=CC=C(C=C2)F)CCOCC2=CC=CC=C2 | C31H36FN3O6
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 32 mL | C(C)(=O)OCC | C4H8O2
product | 2-(4-fluorobenzyl)-4-(2-hydroxyethyl)-7-isopropyl-1,6,8-trioxo-1,3,4,6,7,8-hexahydro-2H-pyrazino[1,2-c]pyrimidine-9-yl pivalate | C(C(C)(C)C)(=O)OC1=C2N(C(N(C1=O)C(C)C)=O)C(CN(C2=O)CC2=CC=C(C=C2)F)CCO | C24H30FN3O6
